US07601722B2
A solution of 3,4-difluoroaniline (10.0 mL, 1.0 mol) in tetrahydrofuran (200 mL) was cooled to −78° C., treated with n-butyllithium solution (44 mL of a 2.5 M hexanes solution, 1.1 mol), stirred at −78° C. for 1 h and then warmed to 0° C. for 30 min. The reaction mixture was cooled to −78° C. and 1-fluoro-2-nitrobenzene (9.5 mL, 0.9 mol) in tetrahydrofuran (10 mL) was slowly added and the reaction, after which the reaction was warmed to room temperature. The reaction mixture was evaporated to provide 3,4-difluoro-N-(2-nitrophenyl)aniline (22.76 g, 91%) as a brown solid. The crude product was taken on to the next step.

reactant | 3,4-difluoroaniline | 1.0 mol, 10.0 mL | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-fluoro-2-nitrobenzene | 0.9 mol, 9.5 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3,4-difluoro-N-(2-nitrophenyl)aniline | 22.76 g, 91% | FC=1C=C(NC2=C(C=CC=C2)[N+](=O)[O-])C=CC1F | C12H8F2N2O2
